US06087399
2.2 g (10 mmol) of 7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid were heated to 180° C. for 5 h with 2.2 g of copper powder in 22 g of quinoline. After cooling, the mixture was diluted with EA, and the copper was filtered off and then washed several times with dil. hydrochloric acid. After concentration of the organic phase in a rotary evaporator and purification by chromatography on silica gel using cyclohexane/EA 6:1, 0.6 g of 3,3-dimethyl-3,4-dihydro-2H-naphthalen-1-one was obtained.

reactant | 7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 10 mmol, 2.2 g | CC1(CC(C=2C=CC=C(C2C1)C(=O)O)=O)C | C13H14O3
solvent | quinoline | 22 g | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | EA | CC(OCC)=O | C4H8O2
catalyst | copper | 2.2 g | [Cu] | Cu
product | 3,3-dimethyl-3,4-dihydro-2H-naphthalen-1-one | 0.6 g | CC1(CC(C2=CC=CC=C2C1)=O)C | C12H14O
